US09290451B2
e) 5-Methyl-6-(piperidine-1-sulfonyl)-pyridine-2-carboxylic acid methyl ester
5-Methyl-6-sulfo-pyridine-2-carboxylic acid methyl ester (340 mg, 1.47 mmol), thionyl chloride (CAN 7719-09-7, 1 mL) and 1 drop of DMF were added to methylene chloride (10 mL), and the mixture was stirred for 2 h at 40° C. The mixture was cooled to room temperature, and piperidine (CAN 110-89-4, 1.0 g, 12 mmol) in methylene chloride (10 mL) was added to the above mixture. The solvent was removed in vacuo, and the crude product was purified by prep-HPLC (eluting with 50% ethyl acetate in petroleum ether) to give the product (53 mg, 12%); MS (EI): m/e=299.1 [M+H]+.

reactant | 5-Methyl-6-sulfo-pyridine-2-carboxylic acid methyl ester | 1.47 mmol, 340 mg | COC(=O)C1=NC(=C(C=C1)C)S(=O)(=O)O | C8H9NO5S
reactant | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | piperidine | 12 mmol, 1.0 g | N1CCCCC1 | C5H11N
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-Methyl-6-(piperidine-1-sulfonyl)-pyridine-2-carboxylic acid methyl ester | 53 mg, 12% | COC(=O)C1=NC(=C(C=C1)C)S(=O)(=O)N1CCCCC1 | C13H18N2O4S
